US06054563
In a 10 liter Turbosphere® dryer reactor (available from PIERRE GUERIN S. A.) the following charges are made: water 1500 gr, caustic soda anhydrous 278 gr. The agitation is started and 1000 gr of ethyl hexanoic acid (MW=144) are fed over 10 minutes. At the clear solution, it is added 3600 gr of toluene and the mixture is brought to from about 30 to about 50° C. 1364 gr of an aqueous solution of neodymium nitrate (concentration 497 gr or Nd203 /1) is added over 30 minutes. The mixture is agitated during the 30 minutes then decanted. The aqueous layer is removed. The upper organic layer is washed once with 1200 gr of water and distilled under vacuum up to about 90° C. A bluish powder of neodymium ethylhexanoate is obtained (1400 gr).

reactant | water | 1500 gr | O | H2O
reactant | caustic soda | 278 gr | [OH-].[Na+]
reactant | ethyl hexanoic acid | 1000 gr | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | neodymium nitrate | [N+](=O)([O-])[O-].[Nd+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | toluene | 3600 gr | C1(=CC=CC=C1)C | C7H8
product | neodymium ethylhexanoate | C(C)OC(CCCCC)=O.[Nd] | InChI=1S/C8H16O2.Nd/c1-3-5-6-7-8(9)10-4-2;/h3-7H2,1-2H3;
